US05889010
B. Methanesulfonic acid 3-(4-fluoro-2-nitro-phenylamino)-2-methylpropyl ester
To a cold (-25 ° C.), stirred mixture of 3-(4-fluoro-2-nitro-phenylamino)-2-methyl -propan-1-ol (2.0 gm), triethylamine (1.82 ml) in methylenechloride (50 ml) is dropwise added a solution of methanesulfonic acid anhydride (1.6 gm) in 50 ml CH2Cl2. After complete addition, the mixture is warmed to ambient temperature, extracted with water (2×20 ml), dried over Na2SO4 and concentrated to a thick brown oil crude methanesulfonic acid 3-(44luoro-2-nitro-phenylamino)-2-methyl-propyl ester (2.74 gm).

reactant | 3-(4-fluoro-2-nitro-phenylamino)-2-methyl -propan-1-ol | 2.0 gm | FC1=CC(=C(C=C1)NCC(CO)C)[N+](=O)[O-] | C10H13FN2O3
reactant | triethylamine | 1.82 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid anhydride | 1.6 gm | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | methylenechloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 3-(4-fluoro-2-nitro-phenylamino)-2-methylpropyl ester | FC1=CC(=C(C=C1)NCC(COS(=O)(=O)C)C)[N+](=O)[O-] | C11H15FN2O5S
